US07951819B2
N-(3-tert-butyl-1-phenyl-1H-pyrazol-5-yl)-3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)benzamide (CJS 3906)
Method L2: A solution of AlMe3 (solution in toluene 2M, 260 μL, 0.527 mmol,) was added dropwise to a cooled (0° C.) solution of 3-tert-butyl-1-phenyl-1H-pyrazol-5-amine (113 mg, 0.527 mmol) in THF (2.5 mL). When the addition was complete, the mixture was allowed to warm to room temperature and stirring was continued for 30 minutes. Then methyl 3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)benzoate (100 mg, 0.351 mmol) was added and the mixture was heated under reflux for 19 hours. The mixture was cooled to room temperature and carefully quenched with 5% aq HCl (1 mL). After evaporation of solvent, the residue was retaken in CH2Cl2, washed with saturated solution of NaHCO3 then with brine, dried over MgSO4 and evaporated under vacuum. The obtained residue was chromatographied (eluent: EtOAc) and the title compound was obtained as a light yellow solid (54 mg, 33%). 1H-NMR (δ, ppm, DMSO-d6): 1.30 (s, 9H, tBu), 6.39 (s, 1H, Hpyrrazole) 6.51 (d, 1H, HPy,5, J=5.9 Hz), 7.31 (t, 1H, Harom, J=7.4 Hz), 7.37 (dd, 1H, Harom, J=8.0 Hz, J=2.3 Hz), 7.41-7.44 (m, 2H, Harom), 7.49-7.51 (m, 2H, Harom), 7.55-7.62 (m, 2H, Harom), 7.71 (d, 1H, Harom, J=8.1 Hz), 7.82 (d, 1H, HPy,6, J=5.9 Hz), 10.34 (s, 1H, NHamide), 11.18 (s, 1H, NHurea), 11.42 (s, 1H, NHurea). LC-MS (m/z): 469 (M+H).

reactant | AlMe3 | 0.527 mmol, 2M, 260 μL | C[Al](C)C
reactant | 3-tert-butyl-1-phenyl-1H-pyrazol-5-amine | 0.527 mmol, 113 mg | C(C)(C)(C)C1=NN(C(=C1)N)C1=CC=CC=C1 | C13H17N3
reactant | methyl 3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)benzoate | 0.351 mmol, 100 mg | O=C1NC=2C(=NC=CC2OC=2C=C(C(=O)OC)C=CC2)N1 | C14H11N3O4
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | N-(3-tert-butyl-1-phenyl-1H-pyrazol-5-yl)-3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)benzamide | C(C)(C)(C)C1=NN(C(=C1)NC(C1=CC(=CC=C1)OC1=C2C(=NC=C1)NC(N2)=O)=O)C2=CC=CC=C2 | C26H24N6O3
